US07772271B2
6-Amino-2-(4-ethoxyphenyl)-1-ethyl-1H-indole-3-carbonitrile (31 mg, 0.1 mmol) is treated with ethyl isocyanate (14 mg, 0.2 mmol) in dichloromethane (1.0 mL) at 40° C. overnight. The precipitate is collected via filtration, washed with dichloromethane and dried in air to furnish 1-[3-cyano-2-(4-ethoxy-phenyl)-1-ethyl-1H-indol-6-yl]-3-ethyl-urea (36 mg, 95%).

reactant | 6-Amino-2-(4-ethoxyphenyl)-1-ethyl-1H-indole-3-carbonitrile | 0.1 mmol, 31 mg | NC1=CC=C2C(=C(N(C2=C1)CC)C1=CC=C(C=C1)OCC)C#N | C19H19N3O
reactant | ethyl isocyanate | 0.2 mmol, 14 mg | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 1-[3-cyano-2-(4-ethoxy-phenyl)-1-ethyl-1H-indol-6-yl]-3-ethyl-urea | 36 mg, 95% | C(#N)C1=C(N(C2=CC(=CC=C12)NC(=O)NCC)CC)C1=CC=C(C=C1)OCC | C22H24N4O2
